US08114887B2
N-[4-(3-{[4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3,8-triazaspiro[4.5]dec-3-en-8-yl]methyl}phenoxy)butyl]methanesulfonamide. (9-6)
Methanesulfonyl chloride (0.019 mL, 0.245 mmole) was added dropwise to a solution of 8-{3-[(6-aminohexyl)oxy]benzyl}-4-(cyclohexylamino)-1-(3-fluorophenyl)-1,3,8-triazaspiro[4.5]dec-3-en-2-one (0.116 mg, 0.222 mmole) in 5 mL CH2Cl2 at rt, and Et3N (0.034 mL, 0.245 mmole. After stirring for 0.5 hr at rt, the reaction was concentrated in vacuo. The residue was redissolved in CH2Cl2, washed with H2O, and then brine. Dried over Na2SO4, filtered and conc in vacuo. The residue was purified on a 40 g silica gel column eluting with 100% CH2Cl2 saturated with ammonia to 4% MeOH in CH2Cl2 saturated with ammonia. The clean fractions were combined and concentrated in vacuo to yield the product.

reactant | Methanesulfonyl chloride | 0.245 mmole, 0.019 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 8-{3-[(6-aminohexyl)oxy]benzyl}-4-(cyclohexylamino)-1-(3-fluorophenyl)-1,3,8-triazaspiro[4.5]dec-3-en-2-one | 0.222 mmole, 0.116 mg | NCCCCCCOC=1C=C(CN2CCC3(C(=NC(N3C3=CC(=CC=C3)F)=O)NC3CCCCC3)CC2)C=CC1 | C32H44FN5O2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-{[4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3,8-triazaspiro[4.5]dec-3-en-8-yl]methyl}phenoxy)butyl]methanesulfonamide | C1(CCCCC1)NC1=NC(N(C12CCN(CC2)CC=2C=C(OCCCCNS(=O)(=O)C)C=CC2)C2=CC(=CC=C2)F)=O | C31H42FN5O4S
